US09227960B2
Acetyl chloride (2.8 mL, 39.4 mmol) was added to ethanol (35 mL). The resulting solution was added to 2-(4-Iodo-phenyl)-1,1-dioxo-1λ6-thiomorpholine-4-carboxylic acid tert-butyl ester (2.16 g; 4.94 mmol), at RT. The resulting mixture was stirred at 55° C. for 2 hours, and subsequently, at RT overnight. The resulting suspension was concentrated in vacuo, and treated with iPr2O. The formed precipitate was collected by filtration and dried in vacuo to afford 2-(4-iodo-phenyl)-thiomorpholine 1,1-dioxide hydrochloride (1.78 g).

reactant | Acetyl chloride | 39.4 mmol, 2.8 mL | C(C)(=O)Cl | C2H3ClO
reactant | 2-(4-Iodo-phenyl)-1,1-dioxo-1λ6-thiomorpholine-4-carboxylic acid tert-butyl ester | 4.94 mmol, 2.16 g | C(C)(C)(C)OC(=O)N1CC(S(CC1)(=O)=O)C1=CC=C(C=C1)I | C15H20INO4S
solvent | ethanol | 35 mL | C(C)O | C2H6O
product | 2-(4-iodo-phenyl)-thiomorpholine 1,1-dioxide hydrochloride | 1.78 g | Cl.IC1=CC=C(C=C1)C1CNCCS1(=O)=O | InChI=1S/C10H12INO2S.ClH/c11-9-3-1-8(2-4-9)10-7-12-5-6-15(10,13)14;/h1-4,10,12H,5-7H2;1H
